US06096918
(E)-3-(2-Hydroxy-phenyl)-2-methyl-acrylic acid ethyl ester
To a solution of 75.0 g (carbethoxyethylidene)triphenyl phosphorane in 350 ml of toluene, 23.2 g of salicylaldehyde was dropped in at 20° C. while cooling in an ice-bath. After stirring at room temperature for 90 mn., the reaction mixture was diluted with toluene and washed to neutrality with water.

reactant | (carbethoxyethylidene)triphenyl phosphorane | 75.0 g | C(=O)(OCC)CC=P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C23H23O2P
reactant | salicylaldehyde | 23.2 g | C(C=1C(O)=CC=CC1)=O | C7H6O2
solvent | toluene | 350 ml | C1(=CC=CC=C1)C | C7H8
product | (E)-3-(2-Hydroxy-phenyl)-2-methyl-acrylic acid ethyl ester | C(C)OC(\C(=C\C1=C(C=CC=C1)O)\C)=O | C12H14O3
